US06599902B2
Synthesis of 5-(2,3-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[5-(2,3-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.2 mmol) was coupled with 4-pyrrolidin-1-yl-piperidine (31 mg, 1.2 eq.) using HOBt (1.2 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) in DMF at rt for overnight to give the titled compound. MS m/z 639 [M−1].

reactant | 5-[5-(2,3-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.2 mmol, 100 mg | ClC1=C(C=CC=C1Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | 4-pyrrolidin-1-yl-piperidine | 31 mg, 1.2 eq. | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | HOBt | 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(2,3-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C=CC=C1Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1CCC(CC1)N1CCCC1)C | C32H34Cl2N4O4S
